US07491714B2
(h) (R)-2-Bromo-1-(8-fluoro-6-methoxy-quinolin-4-yl)-ethanol
8.0 g (26.8 mmol) of 2-Bromo-1-(8-fluoro-6-methoxy-quinolin-4-yl)-ethanone was dissolved in 200 mL of toluene. 17.2 g (53.6 mmol) of (+)-DIP-chloride was added and the contents were allowed to stir at rt overnight (16 hrs). 8 mL (80.4 mmol) of diethanolamine was added and the contents were allowed to stir at rt for 3 hrs. The contents were filtered and the solids washed; first with hot toluene, then with ethyl acetate until the washings no longer had UV activity. The crude material was preadsorbed onto silica gel and purified by flash chromatography using 2:1 hexanes/ethyl acetate and going to 100% ethyl acetate afforded 7.95 g (98%) of the product. 1H NMR (DMSO, 400 MHz) 8.81 (d, 1H), 7.71 (d, 1H), 7.39 (d, 1H), 7.30 (s, 1H), 6.28 (d, 1H), 5.75 (m, H), 4.00 (s, 3H), 3.97 (dd, 1H), 3.91 (dd, 1H). LCMS (M+H)+ 300. Enantiomeric excess was determined by chiral HPLC to be ≧94%.

reactant | 2-Bromo-1-(8-fluoro-6-methoxy-quinolin-4-yl)-ethanone | 26.8 mmol, 8.0 g | BrCC(=O)C1=CC=NC2=C(C=C(C=C12)OC)F | C12H9BrFNO2
reactant | (+)-DIP-chloride | 53.6 mmol, 17.2 g | B([C@H]1C[C@@H]2C[C@H]([C@@H]1C)C2(C)C)([C@H]3C[C@@H]4C[C@H]([C@@H]3C)C4(C)C)Cl | C20H34BCl
reactant | diethanolamine | 80.4 mmol, 8 mL | N(CCO)CCO | C4H11NO2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-2-Bromo-1-(8-fluoro-6-methoxy-quinolin-4-yl)-ethanol | 7.95 g, 98% | BrC[C@H](O)C1=CC=NC2=C(C=C(C=C12)OC)F | C12H11BrFNO2
